* Extracted by KLayout with SG13G2 LVS runset on : 08/04/2026 17:37

.SUBCKT inversor
M$1 \$1 \$4 \$3 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p PS=1.34u
+ PD=1.34u
M$2 \$2 \$4 \$3 \$2 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p PS=1.34u
+ PD=1.34u
.ENDS inversor
